US05034411
b) 4-[3-[ethyl[3-[(4-hydroxyphenyl)sulfinyl]propyl]amino]-2-hydroxypropoxy]-benzonitrile
A solution of 4-[3-[[3-[[4-(acetyloxy)phenyl]thio]propyl]ethylamino] -2-hydroxypropoxy]-benzonitrile (3.80 g, 8.8 mmol) and toluene-4-sulfonic acid (1.67 g, 8.8 mmol) in ethanol (100 ml) was stirred and chilled to -15 ° C. To the chilled solution was added a solution of 3-chloroperbenzoic acid (2.05 g, 8.8 mmol) in ethanol (10 ml). The solution was stirred at room temperature for 2 h. Sodium hydroxide (8.8 g, 0.22 mol) was added and the solution was stirred for 1 h. The pH was adjusted to about 7 with hydrochloric acid. After evaporation the residue was treated with 2M hydrochloric acid and washed with diethylether. The acidic aqueous layer was treated with sodium hydroxide solution to pH =9 and extracted with three portions of ethyl acetate. The combined ethyl acetate fractions were dried over sodium sulfate and evaporated. The oily residue was purified by column chromatography on silica gel. Yield: 0.9 g of the title compound.

reactant | 4-[3-[[3-[[4-(acetyloxy)phenyl]thio]propyl]ethylamino] -2-hydroxypropoxy]-benzonitrile | 8.8 mmol, 3.80 g | C(C)(=O)OC1=CC=C(C=C1)SCCCN(CC(COC1=CC=C(C#N)C=C1)O)CC | C23H28N2O4S
reactant | toluene-4-sulfonic acid | 8.8 mmol, 1.67 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-chloroperbenzoic acid | 8.8 mmol, 2.05 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium hydroxide | 0.22 mol, 8.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[3-[ethyl[3-[(4-hydroxyphenyl)sulfinyl]propyl]amino]-2-hydroxypropoxy]-benzonitrile | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCS(=O)C1=CC=C(C=C1)O | C21H26N2O4S
